US06897231B2
A. N-Amino-2-piperidylacetamide
To a solution of methyl 2-piperidylacetate (1.082 mL, 5.84 mmol) in 1 mL of anhydrous ethanol was added anhydrous hydrazine (0.283 mL, 5.84 mmol). The solution was heated to reflux temperature overnight. The solvent was then removed under reduced pressure and the product was isolated as a gummy white solid in a quantitative yield and was used without further purification: ES-MS (m/z) 158 [M+H]+.

reactant | methyl 2-piperidylacetate | 5.84 mmol, 1.082 mL | N1C(CCCC1)CC(=O)OC | C8H15NO2
reactant | hydrazine | 5.84 mmol, 0.283 mL | NN | H4N2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-Amino-2-piperidylacetamide | quantitative yield | NNC(CC1NCCCC1)=O | C7H15N3O
